US07834051B2
5-(methoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione
To a solution of 4-{[(benzyloxy)carbonyl]amino}-5-methoxy-2,2-dimethyl-3-oxopentanoate (10.2 g) in methanol (100 mL) was added 10% palladium carbon (containing 50% water, 3.1 g), and the mixture was stirred overnight under a hydrogen atmosphere. Palladium carbon was filtered off, and the filtrate was concentrated under reduced pressure. The obtained solid was washed with hexane to give the title compound as colorless crystals (yield: 4.16 g, 84%).

reactant | 4-{[(benzyloxy)carbonyl]amino}-5-methoxy-2,2-dimethyl-3-oxopentanoate | 10.2 g | C(C1=CC=CC=C1)OC(=O)NC(C(C(C(=O)[O-])(C)C)=O)COC
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium carbon | 3.1 g | [C].[Pd]
product | 5-(methoxymethyl)-3,3-dimethylpyrrolidine-2,4-dione | yield: 4.16 g, 84% | COCC1C(C(C(N1)=O)(C)C)=O | C8H13NO3
